US06858627B2
4-Allylsulfanylmethyl-6-(3,4-dimethoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 3,4-dimethoxyphenylboronic acid. Bromination and coupling reaction with allyl mercaptan gave 10 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 3,4-dimethoxyphenylboronic acid | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-6-(3,4-dimethoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 10 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=CC(=C(C=C1)OC)OC)(C)C | C23H27NO2S
